US06747025B1
Preparation of 3-(3H-Isobenzofuran-1-ylidene)-1-piperidin-1-ylmethyl-1,3-dihydro-indol-2-one
A mixture of 3-(3H-isobenzofuran-1-ylidene)1,3-dihydro-indol-2-one (4.32 g, 17.3 mmol), paraformaldehyde (0.99 g, 32.9 mmol), and piperidine (2.14 mL, 21.7 mmol) in 192 mL EtOH and 48 mL dioxane was heated at reflux for 18.5 h. The solution was concentrated in vacuo to a volume of 100 mL and then refluxed for 1 h to dissolve the precipitant. The mixture was allowed to cool to room temperature and the precipitate filtered to give the title compound (3.728 g) as a bright yellow solid. An additional 0.52 g of the title compound was obtained by crystallization of the filtrate from ethyl acetate. The two lots were combined to give 4.248 g (71%) of the title compound as a bright yellow solid.

reactant | 3-(3H-isobenzofuran-1-ylidene)1,3-dihydro-indol-2-one | 17.3 mmol, 4.32 g | C1(OCC2=CC=CC=C12)=C1C(NC2=CC=CC=C12)=O | C16H11NO2
reactant | paraformaldehyde | 32.9 mmol, 0.99 g | C=O | CH2O
reactant | piperidine | 21.7 mmol, 2.14 mL | N1CCCCC1 | C5H11N
solvent | EtOH | 192 mL | CCO | C2H6O
solvent | dioxane | 48 mL | O1CCOCC1 | C4H8O2
product | 3-(3H-Isobenzofuran-1-ylidene)-1-piperidin-1-ylmethyl-1,3-dihydro-indol-2-one | 3.728 g | C1(OCC2=CC=CC=C12)=C1C(N(C2=CC=CC=C12)CN1CCCCC1)=O | C22H22N2O2
